US03948906
3-n-Propoxymethyl-7β-(2'-thienylacetamido)-ceph-3-em-4-carboxylic acid
3-Dichloroacetoxymethyl-7β-(2'-thienylacetamido)ceph-3-em-4-carboxylic acid (5 g., 12.9 mmoles) was refluxed in n-propanol (50 ml.) for 20 minutes. The solution was cooled and the precipitated brown solid was filtered off and discarded. The filtrate was treated with water (300 ml.) and the pH adjusted to 8.5 with aqueous sodium bicarbonate. The solution was extracted with ethyl acetate (2 × 20 ml.) and the extracts were discarded. The aqueous phase was acidified to pH 1.5 and extracted with ethyl acetate (3 × 20 ml.). After drying, the solution was removed and the residue dissolved in ethyl acetate (50 ml.), and ether (100 ml.) was added. The precipitated brown solid was filtered off and discarded, and the filtrate evaporated to dryness. The residue was twice recrystallised from aqueous ethanol to give the title compound as colourless needles (500 mg., 11.7%), m.p. 152°-154° (decomp) [α]D25 = 79.8° (c 1.0, tetrahydrofuran), λmax (pH6-phosphate buffer) 236 nm. (ε = 13,600), 260 nm. (ε = 8,700) (shoulder), νmax (Nujol) 3310 (--NH--), 1772 (β-lactam), 1724 (--COOH), 1665 and 1535 cm-1 (--CONH--). (Found: C, 51.3; H, 5.1; N, 6.9; S, 15.9. C17H20N2S2O5 requires: C, 51.5; H, 5.1; N, 7.1; S, 16.2%). N.M.R. (D2O-NaHCO3) 5.78, 6.60, 8.52, 9.13τ (--CH2OCH2CH2CH3), Rf 0.48 (System B); 0.54 (System C).

reactant | 3-Dichloroacetoxymethyl-7β-(2'-thienylacetamido)ceph-3-em-4-carboxylic acid | 12.9 mmoles, 5 g | ClC(C(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC=2SC=CC2)=O)=O)Cl | C16H14Cl2N2O6S2
reactant | n-propanol | 50 ml | C(CC)O | C3H8O
product | 3-n-Propoxymethyl-7β-(2'-thienylacetamido)-ceph-3-em-4-carboxylic acid | 500 mg, 11.7% | C(CC)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC=2SC=CC2)=O)=O | C17H20N2O5S2
